US04105773
A solution of 4-acetamido-2-bromothiazole and methyl tosylate (4.65 g, 25 mM) in dry acetonitrile (125 ml) was treated with a 60% dispersion of sodium hydride in oil (1 g, 25 mM) and the mixture stirred 72 hours at ambient temperature. The reaction mixture was filtered and the filtrate evaporated under reduced pressure. The residue was chromatographed on silica (Woelm grade 1, 150 g) using 2% methanol in chloroform as eluant. Evaporations of the appropriate fractions followed by recrystallisation from hexane gave 2-bromo-4-(N-methylacetamido)thiazole (1.9 g, 32%) mp 84° C. Found: C, 30.55; H, 2.95; N, 11.8%, C6H7N2BrOS requires C, 30.7; H, 3.0; N, 11.9%).

reactant | 4-acetamido-2-bromothiazole | C(C)(=O)NC=1N=C(SC1)Br | C5H5BrN2OS
reactant | methyl tosylate | 25 mM, 4.65 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | sodium hydride | [H-].[Na+]
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 2-bromo-4-(N-methylacetamido)thiazole | 1.9 g, 32% | BrC=1SC=C(N1)N(C(C)=O)C | C6H7BrN2OS
